US06936608B2
a) 7-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
A solution of 7-(3-bromophenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.380 g, 1.11 mmol) in 1,4-dioxane (50 ml) was degassed by evacuation and refilling with nitrogen three times before dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.045 g, 0.055 mmol), potassium acetate (0.326 g, 3.32 mmol) and bis(neopentyl glycolato)diboron (0.253 g, 1.12 mmol) were added. The mixture was degassed again before heating at reflux temperature for 12 h. The mixture was partitioned between water (15 ml) and diethyl ether (15 ml). The aqueous layer was washed with diethyl ether (3×15 ml), and the organic extracts were combined, dried (MgSO4) and concentrated under reduced pressure to give 421 mg (quantitative) of the title compound: 1H NMR (400 MHz, CDCl3) δ 1.06 (6H, s), 3.82 (4H, s), 7.55 (1H, t, J 7.7 Hz), 7.91 (1H, dt, J 7.7, 1.2 Hz), 8.19 (1H, dq, J 7.7, 1.2 Hz), 8.44 (1H, s), 8.64 (1H, s), 8.81 (1H, s); MS (ES+) m/z 309.

reactant | 7-(3-bromophenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 1.11 mmol, 0.380 g | BrC=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C12H6BrF3N4
reactant | potassium acetate | 3.32 mmol, 0.326 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 1.12 mmol, 0.253 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.055 mmol, 0.045 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 7-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | CC1(COB(OC1)C=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)C | C17H16BF3N4O2
